US09403805B2
To a mixture of (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester (150 mg, 0.37 mmol) and 44 mg of n-propyl amine was added Me3Al (catalytic amount, 2M in toluene) under an argon atmosphere in a seal tube and the mixture was heated at 100° C. for 16 hr. The reaction mixture was then quenched with water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude was then purified by silica gel column chromatography to give (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid propylamide (30 mg, 18.7% yield) as a white solid. MS calcd. for C26H36N3O3 [(M+H)+] 438.0, obsd. 438.2.

reactant | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester | 0.37 mmol, 150 mg | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC1CCCCC1 | C24H30N2O4
reactant | n-propyl amine | 44 mg | C(CC)N | C3H9N
reactant | Me3Al | 2M | C[Al](C)C
product | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid propylamide | 30 mg, 18.7% yield | C(CC)NC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC1CCCCC1 | C26H35N3O3
